data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,1861,"CCCCC(=O)C1CCC2C3CCC4CC(O)CCC4(C)C3CCC12C.CCCC[P:1](CCCC)CCCC.O=C1CCC(=O)[N:2]1[S:3]C1=CC=C(Cl)C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7172,"CC(C)[C:1]1([H:2])C=CC=C[C+:3]1CBr.[F-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,7779,"C1=CC=[C:1]([Li:2])C=C1.CCCCO[C:3](CC(C)C)=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3881,"CC1=C(C(=O)OCC2=CC=CC=C2)C[C:1](C2=CC=CC=C2)([OH2+:2])[O:3]1.O=S(=O)([O-])C(F)(F)F|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6178,"CC(C)[C:1](C(C)C)=[O+:2][Mg-:3]([Cl])[CH:4](C)[CH2:5][H:6]|((3, 4), 5);((5, 6), 1);((1, 2), 2)"
train,pmechdb_split_0,0,6253,"CCCC1CC2[CH:1]=[CH:2]C1[CH:3]2[O:4]S(=O)(=O)C1=CC=C(C)C=C1|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7397,"[CH2:1]=[NH2+:2].[I-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1351,"CC(=O)C([NH2+]C1([O-:1])CCC2(O)C3CC4=C(C=CC=C4)C2(CCN3C)C1)C(=O)N(CC1=CC=CC=C1)C(C)C.CC(=O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9464,"CC(C)[CH2][AlH:1][CH2]C(C)C.CCC1CC(=[O:2])NC2=CC=CC=C21|(2, 1)"
train,pmechdb_split_0,0,7157,"C[S+]([O-])CC(OCC1=CC=CC=C1)C1OC(C)(C)OC1C(OCC1=CC=CC=C1)[CH:1]([S+](C)OC(=O)C(F)(F)F)[H:2].O=C(C(F)(F)F)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1663,"C=C(C)C(OS(C)(=O)=O)C1[CH:1](C(C)(C)[O-:2])[O:3]1.CC(C)(C)O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5327,"CC1CCC2C(C)C(C=[C+:1][CH2:2][Si-:3](C)(C)(C)OC(=[O+][Zn-]([Cl])[Cl])C3=CC=CC=C3)OC3OC4(C)CCC1C32OO4|((3, 2), 1)"
train,pmechdb_split_0,0,4379,"C[CH:1]=[NH2+:2].[F-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6734,"CC(C)C.CC[Si](CC)(CC)OC(CCOC1=CC=C([N+](=O)[O-])C=C1)CC1[CH2:1][O:2]1.CC[Si](CC)(CC)[C:3]1([Li:4])SCCCS1|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,4765,"ClC(Cl)(Cl)C1=CC=C[CH:1]=[CH:2]1.O=[N+:3]=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,116,"CC1(C)CCCC[CH:1]=[C:2]1C1=CC=CC=C1.[H:3][Br:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2408,"CS(=O)(=O)O[Si-](C)(C)(C)[O+:1](C)[H:2].C[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2977,"C[C+:1]1CCCCC1.[Cl-].[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,5866,"CCCCCCCCCCCCOC1=CC=C(C(=O)[O-])C=C1.CCOC(=O)N[N:1]([C:2](OCC)=[OH+:3])[P:4](OC1CCC2(C)C(CCC3C2CCC2(C)C(C(C)CCCC(C)C)CCC32)C1)(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1|((4, 1), 2);((2, 3), 3)"
train,pmechdb_split_0,0,8757,"CO[C:1](O)([OH+:2]C)[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2676,"CCCC1=CC=C[N+:1]([CH:2]2CC(O)C(COC)[O:3]2)=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,10183,"CO[CH+:1][OH:2]|(2, 1)"
train,pmechdb_split_0,0,10153,"COP(=O)(OC)C(=[N+]=[N-])[C:1](C)([O-:2])[O:3]C|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,843,"CCC(C)(C(C)C(C)=O)[O-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3453,"CCC1CC(O)([NH+:1](O)[H:2])C2=CC=CC=C21.[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,782,"CCN(CC)C(C)=[O+:1][H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5028,"C1=CC=C(N2N=NN=C2[S:1][H:2])C=C1.C=C1CC(C=C(C)Br)OC(CCO)C1.CCOC(=O)N([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[N:3]=[C:4](OCC)[O-:5]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,5922,"CCCCC[C:1]#[C:2]CC(C)C[N+:3](CC1=CC=CC=C1)=[CH2:4]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,5474,"C[P:1](Cl)Cl.[I][Mg+:2]|(1, 2)"
train,pmechdb_split_0,0,3439,"N#CC1=CC=CC2=C1C=C[CH+:1][C:2]2(S(=O)(=O)O)[H:3].O=S(=O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,2625,"C=CC(=O)NCCC(=O)[NH:1][H:2].CC[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3627,"CC1(CCC(C)(O)[N+:1]2([H:2])CCCC2C(=O)[O-])C(=O)CCC1=O.O=C([O-])C1CCC[NH:3]1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9797,"CC[CH+:1]OC.CC[OH:2]|(2, 1)"
train,pmechdb_split_0,0,2277,"C=CC1(C)CCC2(C)C(=C)C1C([O+]([Zn-]([Cl])[Cl])[Si-:1](C)(C)(C)[Cl:2])CC2C|((1, 2), 2)"
train,pmechdb_split_0,0,2739,"CC[CH:1]([NH+:2](C)C)[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2023,"CC(=O)[C:1](=[CH:2]C(O)C(O)C(O)C(CO)[O-:3])[C:4](C)=[O:5].O.[Na+]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,5575,"CC(=O)O.CCOC(=O)C(=C(COC)[NH2:1])C1C=C(O)C=C[C:2]1=[O:3].CCOC(C)=O|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5514,"CN1C(=O)C2=CC=CN2C=C1CCC[N:1]1[C:2](=[OH+:3])C2=C(C=CC=C2)[C:4]1(NN)[O-:5].NN.O.[Cl-].[K+]|(5, 4);((4, 1), 2);((2, 3), 3)"
train,pmechdb_split_0,0,4082,"Br[C:1]1=[CH:2][CH:3]=[CH:4]C2=C1C=CC=C2.C[CH+:5]C|((1, 2), 3);((3, 4), 5)"
train,pmechdb_split_0,0,9258,"COC(=O)C1(CC(=O)[CH:1](C)[H:2])C(=O)CCC1C.[H:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,4837,"CC(C=O)=CCCC(C)CC(O)[N+:1](C)(C1=CC=CC=C1)[H:2].C[NH:3]C1=CC=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2397,"C[Si:1](C)(C)O[CH2-:2]|(2, 1)"
train,pmechdb_split_0,0,1833,"C[C:1]1(O)[C:2](=[O:3])C2=C(C=CC=C2)C(=O)[C:4]1(O)[O-:5]|(5, 4);((4, 1), 2);((2, 3), 3)"
train,pmechdb_split_0,0,2641,"[CH:1](=[OH+:2])[SH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6002,"CC[C+:1](C)C.[Br-:2]|(2, 1)"
train,pmechdb_split_0,0,8207,"C1=CC=CC=C1.CC(=O)C[CH:1]([H:2])[C:3](C)=[NH+:4]CCOCCO.CC(=O)[O-:5].O|(5, 2);((2, 1), 3);((3, 4), 4)"
